US04356176
The starting material is prepared as follows: The solution of 110 g of 5-bromosalicylic acid in 900 ml of water and 48 g of sodium hydroxide is stirred while 60 ml of dimethyl sulfate are added. The mixture is stirred at 70° for 3 hours, whereupon 50 ml of 50% aqueous sodium hydroxide are added, followed slowly by 60 ml of dimethyl sulfate. After stirring at 70° for 6 hours the last step is repeated and the mixture warmed 17 hours longer. It is cooled in an ice bath, filtered, the filtrate stirred with methylene chloride and neutralized with cold 5 N aqueous hydrochloric acid. The organic phase is separated, dried and evaporated to yield the 5-bromo-2-methoxybenzoic acid melting at 115°-117°.

reactant | 5-bromosalicylic acid | 110 g | BrC1=CC=C(C(C(=O)O)=C1)O | C7H5BrO3
reactant | sodium hydroxide | 48 g | [OH-].[Na+]
reactant | dimethyl sulfate | 60 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | sodium hydroxide | 50 ml | [OH-].[Na+]
reactant | dimethyl sulfate | 60 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | 900 ml | O | H2O
product | 5-bromo-2-methoxybenzoic acid | BrC=1C=CC(=C(C(=O)O)C1)OC | C8H7BrO3
